US07498337B2
5-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)pyridin-2-ol hydrochloride
tert-Butyl {[1-(6-chloro-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate (175 mg) was dissolved in tetrahydrofuran (10 mL), a 8 mol/L aqueous sodium hydroxide solution (3.8 mL) was added, and the mixture was stirred at 50° C. for 2 days. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→0:1) to give a free salt of the title compound. To a solution (1 mL) of the obtained free salt in ethanol was added a 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL). After stirring at room temperature for 4 hr, the solvent was evaporated under reduced pressure, and the residue was crystallized from ethanol-ethyl acetate to give the title compound (yield 40 mg, 27%).

reactant | tert-Butyl {[1-(6-chloro-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate | 175 mg | ClC1=CC=C(C=N1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C | C22H24ClN3O4S
reactant | sodium hydroxide | 8 mol/L, 3.8 mL | [OH-].[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)pyridin-2-ol hydrochloride | Cl.CNCC=1C=C(N(C1)S(=O)(=O)C=1C=CC(=NC1)O)C1=CC=CC=C1 | InChI=1S/C17H17N3O3S.ClH/c1-18-10-13-9-16(14-5-3-2-4-6-14)20(12-13)24(22,23)15-7-8-17(21)19-11-15;/h2-9,11-12,18H,10H2,1H3,(H,19,21);1H
